US07820802B2
After glycolic acid methyl ester (300 mg, 3.33 mmol), triphenylphosphine (1050 mg, 4.00 mmol), 1-methyl-5-mercapto-1H-tetrazole (465 mg, 4.00 mmol), and THF (12 ml) were added to a 50 ml flask, a 40% azodicarboxylic acid diisopropyl ester-toluene solution (2.10 ml, 4.00 mmol) dissolved in THF (6 ml) was added dropwise thereto at 20° C., and the reaction was allowed to proceed for three hours. Water (0.5 mL) was added, and concentration was carried out. Then, water (10 ml) was added to the solution, and extraction was carried out using ethyl acetate (10 ml,×2). Then, the organic layer was washed with water (10 mL) and saturated salt water (10 ml), and dehumidified with anhydrous magnesium sulfate. Subsequently, a crude product obtained by concentration was purified by column chromatography (silica gel, 70% ethyl acetate-hexane solution) to give acetic acid (1-methyl-1H-tetrazole-5-ylsulfanyl)methyl ester containing 1,2-hydrazinedicarboxylic acid diisopropyl ester as 610 mg of a colorless oily substance. Measurement of 1H-NMR showed that 406 mg of acetic acid (1-methyl-1H-tetrazole-5-ylsulfanyl)methyl ester (yield: 65%/glycolic acid methyl ester), and 204 mg of 1,2-hydrazinedicarboxylic acid diisopropyl ester were contained.

reactant | glycolic acid methyl ester | 3.33 mmol, 300 mg | COC(CO)=O | C3H6O3
reactant | triphenylphosphine | 4.00 mmol, 1050 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-methyl-5-mercapto-1H-tetrazole | 4.00 mmol, 465 mg | CN1N=NN=C1S | C2H4N4S
reactant | azodicarboxylic acid diisopropyl ester toluene | 4.00 mmol, 2.10 ml | C(C)(C)OC(=O)N=NC(=O)OC(C)C.C1(=CC=CC=C1)C
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | Water | 0.5 mL | O | H2O
product | acetic acid (1-methyl-1H-tetrazole-5-ylsulfanyl)methyl ester | CN1N=NN=C1SCOC(C)=O | C5H8N4O2S
